.TITLE SCALES EPS REF F Simulation Model

.OPTIONS PSPICE
.INCLUDE libs\TPS1HB08B-Q1_TRANS.lib

* +28v power supply
VVBATT VBB 0 28 ; V<source name> <postive node> <negative node> <voltage>

* Load Resistor
RLOAD VOUT 0 10 ; R<resistorname> <postive node> <negative node> <voltage>

XTPS1 DIA_EN EN 0 ILIM LATCH NC_0 NC_1 NC_2 SEL1 SNS TCON TJ VBB
+ VOUT VOUT VOUT VOUT VOUT VOUT TPS1HB08B-Q1_TRANS

C20 VBB 0 220n
R16 VBB EN 56.2k
R17 EN 0 10k
R18 SNS 0 1k
R19 LATCH 0 15k
C22 VOUT 0 22n
R21 DIA_EN 0 15k
R23 SEL1 0 15k

RNC0 NC_0 0 1G
RNC1 NC_1 0 1G
RNC2 NC_2 0 1G
RNC3 ILIM 0 1G
RNC4 TCON 0 1G
RNC5 TJ 0 1G

* TPS1HB08B-Q1 subckt from lib
* instantiated with local nodes


.control
  tran 1u 1m
  plot v(VOUT) v(VBB)
.endc

.end